US07485634B2
2-Methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester was prepared in a manner similar to that described in Example 1A by using α-methyl-6-fluorotryptamine and n-propyl 3-bromopyruvate; MS (ESI): 303 (MH+).

reactant | α-methyl-6-fluorotryptamine | CC(N)CC1=CNC2=CC(=CC=C12)F | C11H13FN2
reactant | n-propyl 3-bromopyruvate | BrCC(C(=O)OCCC)=O | C6H9BrO3
product | 2-Methyl-8-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid n-propyl ester | C(CC)OC(=O)C1=CNC(CC2=C1NC=1C=C(C=CC21)F)C | C17H19FN2O2
